US06469210B1
0.7 g (2.24 mmol) of methyl 2-[2-(4-chlorophenyl)propanoylamino]-2,3-dimethylbutanoate was dissolved in 20 ml of dimethyl sulfoxide. To the solution was dropwise added, at room temperature with stirring, 5 ml (2.87 mmol) of a 23% sodium hydroxide aqueous solution, and a reaction was allowed to take place at room temperature for 1 hour. Part of the reaction mixture was taken by weighing, acidified (pH=2) with diluted hydrochloric acid, and subjected to extraction with ethyl acetate, after which the extract was analyzed by GC. It was confirmed that the total amount of the methyl 2-[2-(4-chlorophenyl)propanoylamino]-2,3-dimethylbutanoate was converted into 2-(4-chlorophenyl)-N-(1-hydroxycarbonyl-1,2-dimethylpropyl)propionamide. 100 ml of water was added and the mixture was allowed to have a pH of 2 with diluted hydrochloric acid. Extraction was made twice using 100 ml of ethyl acetate. The two organic layers were combined, washed with 50 ml of water, and washed with a saturated aqueous sodium chloride solution. The organic layer obtained was concentrated to obtain 0.5 g (1.7 mmol) (yield=75%) of 2-[2-(4-chlorophenyl)propanoylamino]-2,3-dimethylbutanoic acid.

reactant | methyl 2-[2-(4-chlorophenyl)propanoylamino]-2,3-dimethylbutanoate | 2.24 mmol, 0.7 g | ClC1=CC=C(C=C1)C(C(=O)NC(C(=O)OC)(C(C)C)C)C | C16H22ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-[2-(4-chlorophenyl)propanoylamino]-2,3-dimethylbutanoic acid | 1.7 mmol, 0.5 g, yield=75% | ClC1=CC=C(C=C1)C(C(=O)NC(C(=O)O)(C(C)C)C)C | C15H20ClNO3
